US09120822B2
10% Palladium on activated carbon (140 mg, 0.13 mmol, 0.1 eq) is added at room temperature to a stirred solution of (3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-yl)-methanol (390 mg, 1.32 mmol, 1.0 eq) in methanol (30 mL). The resulting mixture is stirred under hydrogen flow (4 bars) at room temperature for 1 hour. The catalyst is then removed by filtration and the solution is concentrated to afford 4-hydroxymethyl-6-methoxy-[1,5]naphthyridin-3-ol as a white solid (220 mg, 81% yield).

reactant | (3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-yl)-methanol | 1.32 mmol, 390 mg, 1.0 eq | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1CO)OC | C17H16N2O3
catalyst | Palladium on activated carbon | 0.13 mmol, 140 mg, 0.1 eq | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 4-hydroxymethyl-6-methoxy-[1,5]naphthyridin-3-ol | 220 mg, 81% yield | OCC1=C(C=NC2=CC=C(N=C12)OC)O | C10H10N2O3
